US08067447B2
To a stirred solution of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylethanol (290 mg, 0.87 mmol) and (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane (0.7 mL, 3.5 mmol) in anhydrous dichloromethane (5 mL) was added titanium(IV) tetrachloride (1M solution in toluene, 1.9 mL, 1.9 mmol) dropwise at 0° C. under argon. The reaction mixture was stirred at 0° C. for 30 min and rt for 2 hr before being quenched by the slow addition of saturated aqueous sodium bicarbonate solution (15 mL). The mixture was filtered through a pad of celite that was then washed with dichloromethane (10 mL). The aqueous filtrate was reextracted with dichloromethane (10 mL). The combined dichloromethane layers were dried (Na2SO4), concentrated and purified by silica gel flash chromatography to give methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-4-phenylbutanoate (216 mg, 0.52 mmol, 60% yield) as an oil.

reactant | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-phenylethanol | 0.87 mmol, 290 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC1=CC=CC=C1)O | C21H17FN2O
reactant | (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane | 3.5 mmol, 0.7 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) tetrachloride | 1.9 mmol, 1M, 1.9 mL | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-4-phenylbutanoate | 0.52 mmol, 216 mg, 60% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)CC1=CC=CC=C1 | C26H25FN2O2
